US08445490B2
To a solution of 2,4,6-trichloro-1,3,5-triazine (10 g) in acetone (210 mL) was added a solution of 2,2,2-trifluoroethanol (5.97 g) and 2,4,6-collidine (7.88 mL) in acetone (210 mL) dropwise over 1 hour. The resulting mixture was stirred at room temperature for 16 hours. All the solvents were removed under vacuum to give a residue which was diluted with NMP (100 mL) and ethyl 4-aminobenzoate (9.85 g), iPr2NEt (28.4 mL) were added. After stirring at room temperature for 6 hours, 4-(aminomethyl)phenol (7.35 g) was added. The resulting mixture was stirred for 16 hours at room temperature. The mixture was diluted with 300 mL of water and extracted with EtOAc (2×500 mL). The organic layers were combined, washed with brine (300 mL), dried over MgSO4 and concentrated. The residue was purified by recrystallization in MeOH to give ethyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (13.6 g).

reactant | 2,4,6-trichloro-1,3,5-triazine | 10 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | 2,2,2-trifluoroethanol | 5.97 g | FC(CO)(F)F | C2H3F3O
reactant | 2,4,6-collidine | 7.88 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | ethyl 4-aminobenzoate | 9.85 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | iPr2NEt | 28.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(aminomethyl)phenol | 7.35 g | NCC1=CC=C(C=C1)O | C7H9NO
solvent | acetone | 210 mL | CC(=O)C | C3H6O
solvent | acetone | 210 mL | CC(=O)C | C3H6O
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | water | 300 mL | O | H2O
product | ethyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 13.6 g | OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C21H20F3N5O4
